US08685977B2
4-(2-cyanophenoxy)-2,5-difluoro-N-(methylsulfonyl)benzamide
To 2-fluorobenzonitrile (12.1 mg, 0.100 mmol) was added potassium carbonate (27.6 mg, 0.200 mmol) and a solution of 2,5-difluoro-4-hydroxy-N-(methylsulfonyl)benzamide (Preparation 34, 32.7 mg 0.130 mmol) in dimethyl sulfoxide (1.0 mL). The reaction mixture was shaken at 120° C. for 5 hours. The reaction mixture was purified on an HPLC column (DIKMA Diamonsil(2) C18 200*20 mm*5 um, acetonitrile-water (0.225% formic acid) gradient) to afford the title compound (3.50 mg, 9.93 μmol).

reactant | 2-fluorobenzonitrile | 0.100 mmol, 12.1 mg | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | potassium carbonate | 0.200 mmol, 27.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-difluoro-4-hydroxy-N-(methylsulfonyl)benzamide | 0.130 mmol, 32.7 mg | FC1=C(C(=O)NS(=O)(=O)C)C=C(C(=C1)O)F | C8H7F2NO4S
solvent | dimethyl sulfoxide | 1.0 mL | CS(=O)C | C2H6OS
product | 4-(2-cyanophenoxy)-2,5-difluoro-N-(methylsulfonyl)benzamide | 9.93 μmol, 3.50 mg | C(#N)C1=C(OC2=CC(=C(C(=O)NS(=O)(=O)C)C=C2F)F)C=CC=C1 | C15H10F2N2O4S
